US07875645B2
2-(3-Chloro-2-ethyl-6-fluoro-benzyl)-4,5-dihydro-1H-imidazole was prepared from 1-chloro-3-(2,2-dibromo-vinyl)-2-ethyl-4-fluoro-benzene and ethylenediamine in analogy to Example 1e): yellow crystals; MS (ISP): 243.3 ([M+H]+, 30%), 241.2 ([M+H]+, 100%).

reactant | 1-chloro-3-(2,2-dibromo-vinyl)-2-ethyl-4-fluoro-benzene | ClC1=C(C(=C(C=C1)F)C=C(Br)Br)CC | C10H8Br2ClF
reactant | ethylenediamine | C(CN)N | C2H8N2
product | 2-(3-Chloro-2-ethyl-6-fluoro-benzyl)-4,5-dihydro-1H-imidazole | ClC=1C(=C(CC=2NCCN2)C(=CC1)F)CC | C12H14ClFN2
